US06271225B1
Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one (5 g) was suspended to 1,2-dichloroethane (50 ml) and acetyl chloride was added (2.2 g). To this reaction system was added portionwise aluminum chloride (15 g) under ice-cooling and the mixture was stirred at room temperature for 10 minutes. The reaction system was poured into ice. Chloroform was added and the mixture was stirred for 15 minutes. The precipitated crystals were collected by filtration to give 2-acetylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (5.2 g).

reactant | Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 5 g | S1C=CC2=C1OC1=C(NC2=O)C=CC=C1 | C11H7NO2S
reactant | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 15 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-acetylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 5.2 g | C(C)(=O)C1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C13H9NO3S
